US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4-dihydroxyphenyl)-1,3,4-oxadiazol-2-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (80 mg) (0.1 mmol) and 42 mg (0.13 mmol) of 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride are dissolved in 2 ml of absolute dimethylacetamide. After stirring for 20 hours the mixture is filtered and the mother liquor is concentrated at room temperature in a high vacuum. The residue is crystallized using ethanol/diethyl ether. The product is filtered off and washed with water. After drying in a high vacuum at room temperature there are obtained 65 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[5-(3,4-dihydroxyphenyl)-1,3,4-oxadiazol-2-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2 -ene-2-carboxylic acid as a yellow powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4-dihydroxyphenyl)-1,3,4-oxadiazol-2-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.1 mmol, 80 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC=1OC(=NN1)C1=CC(=C(C=C1)O)O)=O | C21H16N6O8S3
reactant | 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride | 0.13 mmol, 42 mg | Cl.NOC(C(=O)NNC(C1=CC(=C(C=C1)O)O)=O)(C)C
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[5-(3,4-dihydroxyphenyl)-1,3,4-oxadiazol-2-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2 -ene-2-carboxylic acid | 65 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC=1OC(=NN1)C1=CC(=C(C=C1)O)O)=N/OC(C)(C)C(NNC(C1=CC(=C(C=C1)O)O)=O)=O | C32H29N9O12S3
